US03992540
A mixture of 0.5 g of 4-hydroxy-8-trifluoromethyl-3 -quinoline-carboxylic acid in 5 ml of thionyl chloride was stirred at room temperature for 24 hours and the precipitate formed was recovered by vacuum filtration to obtain 0.4 g of 4-hydroxy-8-trifluoromethyl-3-quinoline-carboxylic acid chloride melting at 222° C.

reactant | 4-hydroxy-8-trifluoromethyl-3 -quinoline-carboxylic acid | 0.5 g | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)O | C11H6F3NO3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-hydroxy-8-trifluoromethyl-3-quinoline-carboxylic acid chloride | 0.4 g | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)Cl | C11H5ClF3NO2
